US07973051B2
i) 5-Methoxy-4-methyl-thiazol-2-ylamine
5-Bromo-4-methyl-thiazol-2-ylamine (0.5 g, 2.59 mmol) was dissolved in methanol abs. (10 mL). The solution was cooled with an ice-bath, then under stirring was added portionwise sodium methoxide (140 mg, 2.59 mmol) The black reaction mixture was stirred for 30 min. at rt then poured into a mixture of dichloromethane/water. The aqueous layer was extracted with two portions of dichloromethane. The combined, organic extracts were dried over magnesium sulfate, filtered and evaporated under reduced pressure to obtain the crude product which was used without further purification. MS (EI): m/e 144.1.

reactant | 5-Bromo-4-methyl-thiazol-2-ylamine | 2.59 mmol, 0.5 g | BrC1=C(N=C(S1)N)C | C4H5BrN2S
reactant | sodium methoxide | 2.59 mmol, 140 mg | C[O-].[Na+]
reactant | dichloromethane water | ClCCl.O
solvent | methanol | CO | CH4O
product | 5-Methoxy-4-methyl-thiazol-2-ylamine | COC1=C(N=C(S1)N)C | C5H8N2OS
